US04785004
0.57 g of sodium borohydride is added in portions, over a period of 15 minutes, to a stirred solution of 9.3 g of 2-nonylbenzaldehyde in 150 ml of methanol. After stirring for a further 30 minutes, the reaction mixture is concentrated by evaporation under reduced pressure and the residue is taken up in ether. The organic phase is washed with ice-cooled 0.2N hydrochloric acid and with water, dried over sodium sulphate and concentrated by evaporation in vacuo. Chromatographic purification of the residue on silica gel with mixtures of petroleum ether with an increasing amount of ether yields 2-nonylbenzyl alcohol in the form of a pale yellow oil.

reactant | sodium borohydride | 0.57 g | [BH4-].[Na+]
reactant | 2-nonylbenzaldehyde | 9.3 g | C(CCCCCCCC)C1=C(C=O)C=CC=C1 | C16H24O
solvent | methanol | 150 ml | CO | CH4O
product | 2-nonylbenzyl alcohol | C(CCCCCCCC)C1=C(CO)C=CC=C1 | C16H26O
